US05574042
Concentrated sulfuric acid (2.8 ml) was added dropwise to 70% nitric acid (4.0 ml) in an ice-water bath. This mixture was added to a solution of 2,4,6-trichlorobenzoic acid (5.13 g) in concentrated sulfuric acid (23 ml) dropwise for 20 minutes in an ice-water bath. The mixture was stirred for 16 hours at ambient temperature and poured into ice-water (300 ml) slowly. This mixture was stirred for 1 hour at ambient temperature. The precipitate was collected by vacuum filtration and washed with water to give 2,4,6-trichloro-3-nitrobenzoic acid (5.26 g) as colorless fine crystals.

reactant | nitric acid | 4.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,4,6-trichlorobenzoic acid | 5.13 g | ClC1=C(C(=O)O)C(=CC(=C1)Cl)Cl | C7H3Cl3O2
solvent | sulfuric acid | 23 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2.8 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4,6-trichloro-3-nitrobenzoic acid | 5.26 g | ClC1=C(C(=O)O)C(=CC(=C1[N+](=O)[O-])Cl)Cl | C7H2Cl3NO4
